US04159379
44 parts of naphthalene-1,4-dicarboxylic acid are introduced in portions into 900 parts of concentrated sulphuric acid and the mixture is stirred to give a homogeneous suspension. A few crystals of iodine and 36 parts of bromine are then added and the whole is stirred overnight at room temperature. For working up, the mixture is discharged onto ice and filtered and the product is washed with water until neutral. 8-Bromo-naphthalene-1,4-dicarboxylic acid, which is thus obtained, can be purified by recrystallisation from glacial acetic acid. Melting point 288°-290°.

reactant | naphthalene-1,4-dicarboxylic acid | C1(=CC=C(C2=CC=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | iodine | II | I2
reactant | bromine | BrBr | Br2
product | 8-Bromo-naphthalene-1,4-dicarboxylic acid | BrC=1C=CC=C2C(=CC=C(C12)C(=O)O)C(=O)O | C12H7BrO4
